US06011174
(1) Preparation of 2-fluoro-4-biphenylyl acetone
15.0 g of 4-bromo-2-fluorobiphenyl, 25.8 ml of tributyltin methoxide, 8.96 g of isopropenyl acetate and 0.47 g of dichlorobis{tri(o-tolyl)phosphine}palladium, were dissolved in 100 ml of toluene and refluxed under heating for 2 hours. The reaction solution was left to cool to room temperature, and a saturated potassium fluoride aqueous solution was added, followed by stirring for one hour. Then the solution was subjected to celite filtration and washed with ethyl acetate. The filtrate and the washing liquid were put together. Then, the organic layer was separated and washed with a saturated sodium chloride aqueous solution and then, dried over anhydrous magnesium sulfate. The drying agent was filtered off, and then, the solvent was distilled off under reduced pressure. The residue was purified by silica gel column chromatography (hexane/ethyl acetate=10/1→5/1), followed by treatment with methylene chloride-hexane, to obtain 10.6 g of the above identified compound as yellow solid.

reactant | 4-bromo-2-fluorobiphenyl | 15.0 g | BrC1=CC(=C(C=C1)C1=CC=CC=C1)F | C12H8BrF
reactant | tributyltin methoxide | 25.8 ml | C[O-].C(CCC)[Sn+](CCCC)CCCC
reactant | isopropenyl acetate | 8.96 g | C(C)(=O)OC(=C)C | C5H8O2
reactant | potassium fluoride | [F-].[K+]
solvent | toluene | 100 ml | C1(=CC=CC=C1)C | C7H8
product | 2-fluoro-4-biphenylyl acetone | FC1=C(C=CC(=C1)CC(C)=O)C1=CC=CC=C1 | C15H13FO
